US05614544
Methyl (E)-4-[2-[2-(2-furyl)-5-methyl-4-oxazolyl]vinyl]benzoate was reduced with lithium aluminum hydride in the same manner as in Reference Example 12 to yield (E)-4-[2-[2-(2-furyl)-5-methyl-4-oxazolyl]vinyl]benzyl alcohol, which was then recrystallized from ethyl acetate-hexane to yield colorless prisms having a melting point of 150°-15° C.

reactant | Methyl (E)-4-[2-[2-(2-furyl)-5-methyl-4-oxazolyl]vinyl]benzoate | O1C(=CC=C1)C=1OC(=C(N1)/C=C/C1=CC=C(C(=O)OC)C=C1)C | C18H15NO4
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
product | (E)-4-[2-[2-(2-furyl)-5-methyl-4-oxazolyl]vinyl]benzyl alcohol | O1C(=CC=C1)C=1OC(=C(N1)/C=C/C1=CC=C(CO)C=C1)C | C17H15NO3
